US07560551B2
To a solution of diisopropyl amine (1.8 ml, 13 mmol) at 0° C. in 50 mL anhdrous THF under nitrogen was added butyllithium, 2.5 M in hexanes (4.6 ml, 12 mmol). The solution was allowed to stir 5 min and then was cooled to −78° C. (3-Chlorothiophen-2-yl)trimethylsilane (2.0 g, 10 mmol) in 5 mL THF at RT was added slowly via cannula, dropwise, over about 10 min. The resulting solution was allowed to stir for 30 min, at which point trimethyl borate (2.4 ml, 21 mmol) was added dropwise. The solution was allowed to stir for 1 h, and was then warmed to 0° C. and quenched by the addition of 25 mL of 2NHCl, and warmed to ambient temperature with stirring. The mixture was extracted three times with DCM, and the combined organics were dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to give a semisolid. Purification by silica gel chromatography, (0-40% EtOAc/hexanes) provided 4-chloro-5-(trimethylsilyl)thiophen -2-ylboronic acid as an off-white solid.

reactant | diisopropyl amine | 13 mmol, 1.8 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | C(CCC)[Li]
reactant | (3-Chlorothiophen-2-yl)trimethylsilane | 10 mmol, 2.0 g | ClC1=C(SC=C1)[Si](C)(C)C | C7H11ClSSi
reactant | trimethyl borate | 21 mmol, 2.4 ml | B(OC)(OC)OC | C3H9BO3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-chloro-5-(trimethylsilyl)thiophen -2-ylboronic acid | ClC=1C=C(SC1[Si](C)(C)C)B(O)O | C7H12BClO2SSi
